US04891358
Dipeptide Boc-Ser(Bzl)-Gly-OH: A solution of Boc-Ser(Bzl)-OH (23.6 g) and N-hydroxysuccinimide (9.8 g) in EtOAc (400 mL) was cooled to 0° C. A solution of DCC (71.54 g) in EtOAc (100 mL) was added to the cooled solution. The mixture was stirred at 0° C. for 4 h and then filtered. The collected solid was washed with EtOAc. The filtrate was cooled to 0° C. HCl.H-Gly-OCH3 (10.67 g) and DIEA (42 mL) was added to the cooled solution. The mixture was stirred for 18 h while the temperature of the mixture gradually came to room temperature. The mixture was filtered. The filtrate was concentrated to ca 400 mL, washed serially with H2O, 5% aqueous NaHCO3, 1N HCl and H2O, dried (Na2SO4 /MgSO4), and concentrated to dryness. The residual oil was dissolved in Et2O (100 mL). A flocculent precipitate developed which was removed by filtration. The filtrate was concentrated to dryness and dried under reduced pressure to give Boc-Ser(Bzl)-Gly-OCH3 as a colorless oil (28.7 g). A solution of the latter compound (28.0 g) in dioxane (140 mL) and H2O (60 mL) was cooled to 0° C. A solution of NaOH (4.0 g) in H2O (80 mL) was added dropwise to preceding solution. The mixture was stirred at 0° C. during the addition and for 15 min thereafter. The mixture was diluted with H2O and washed with Et 2 O. The aqueous phase was separated and shaken with EtOAc. Solid citric acid was added to mixture (pH=3-4). The aqueous layer was separated from the EtOAc and extracted with fresh EtOAc. The combined organic extracts were washed with H2O, dried (Na2SO4) and concentrated. The glassy residue was dried under high vacuum to give the dipeptide Boc-Ser(Bzl)-Gly-OH (27.22 g).

reactant | Boc-Ser(Bzl)-OH | 23.6 g | N([C@@H](COCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C15H21NO5
reactant | N-hydroxysuccinimide | 9.8 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | 71.54 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Boc-Ser(Bzl)-Gly-OCH3 | 28.7 g | N([C@@H](COCC1=CC=CC=C1)C(=O)NCC(=O)OC)C(=O)OC(C)(C)C | C18H26N2O6
